US04929613
2,5-Difluoro-4-(1,4-dioxaspiro[4.4]non-7-yl)benzoic acid.
A solution of 31.9 g (0.1 mol) of 7-(4-bromo-2,5-difluorophenyl)-1,4-dioxaspiro[4.4]nonane in 300 ml of dry tetrahydrofuran, under an argon atmosphere at -78° C., was treated with 40 ml (0.1 mol) of 2.5 M n-butyl lithium (hexane solution). The solution was warmed to -40° and poured onto 500 g of finely crushed dry ice and the mixture allowed to stand until the dry ice evaporated (18 hours). The solvent was evaporated in vacuo and the residue partitioned between ethyl acetate/1.0 M hydrochloric acid (500 ml ea). The organic layer was washed with water, dried (MgSO4), and evaporated in vacuo to give 18.9 g of the title compound.

reactant | 7-(4-bromo-2,5-difluorophenyl)-1,4-dioxaspiro[4.4]nonane | 0.1 mol, 31.9 g | BrC1=CC(=C(C=C1F)C1CC2(OCCO2)CC1)F | C13H13BrF2O2
reactant | n-butyl lithium | 0.1 mol, 2.5 M, 40 ml | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2,5-Difluoro-4-(1,4-dioxaspiro[4.4]non-7-yl)benzoic acid | 18.9 g | FC1=C(C(=O)O)C=C(C(=C1)C1CC2(OCCO2)CC1)F | C14H14F2O4
